US08076515B2
A mixture of 5 g of 4-(2-fluorobenzyloxy)benzaldehyde, prepared according to the Ex. 1 and the corresponding amount L-alaninamide hydrochloride and triethylamine is hydrogenated according to the same procedure of Example 2, but using wet (50% H2O) Pd/C 10% instead of wet (50% H2O) Pt/C 5% to obtain (S)-2-[4-(2-fluorobenzyloxy)benzylamino]propanamide (Ib) in a 70% yield.

reactant | 4-(2-fluorobenzyloxy)benzaldehyde | 5 g | FC1=C(COC2=CC=C(C=O)C=C2)C=CC=C1 | C14H11FO2
reactant | L-alaninamide hydrochloride | Cl.N[C@@H](C)C(=O)N
catalyst | Pd/C | [Pd] | Pd
catalyst | Pt/C | [Pt] | Pt
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | (S)-2-[4-(2-fluorobenzyloxy)benzylamino]propanamide | 70% yield | FC1=C(COC2=CC=C(CN[C@H](C(=O)N)C)C=C2)C=CC=C1 | C17H19FN2O2
